US08058045B2
tert-Butyl 3-((5-(3-(2-(tert-butyldimethylsilyloxy)ethylcarbamoyl)-1H-pyrrol-1-yl)-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate (80 mg, 0.118 mmol) was dissolved in THF (2 mL) and tetrabutylammonium fluoride on silica (1.5 mmol/g; 237 mg, 0.355 mmol) was added. The reaction mixture was stirred for 1 h at room temperature. The mixture was filtered and the solvent was evaporated. The residue was dissolved in methanol (1 mL) and absorbed on to a TsOH solidphase extraction cartridge. After 1.5 h the cartridge was eluted with 7M ammonia in methanol. The eluent was evaporated to dryness and the residue was purified by HPLC to give 1-(6-(5-cyanopyrazin-2-ylamino)-4-(piperidin-3-ylmethylamino)pyridin-3-yl)-N-(2-hydroxyethyl)-1H-pyrrole-3-carboxamide.

reactant | tert-Butyl 3-((5-(3-(2-(tert-butyldimethylsilyloxy)ethylcarbamoyl)-1H-pyrrol-1-yl)-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate | 0.118 mmol, 80 mg | [Si](C)(C)(C(C)(C)C)OCCNC(=O)C1=CN(C=C1)C=1C(=CC(=NC1)NC1=NC=C(N=C1)C#N)NCC1CN(CCC1)C(=O)OC(C)(C)C | C34H49N9O4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(6-(5-cyanopyrazin-2-ylamino)-4-(piperidin-3-ylmethylamino)pyridin-3-yl)-N-(2-hydroxyethyl)-1H-pyrrole-3-carboxamide | C(#N)C=1N=CC(=NC1)NC1=CC(=C(C=N1)N1C=C(C=C1)C(=O)NCCO)NCC1CNCCC1 | C23H27N9O2
